US07230017B2
Ethyl 3-oxo-3-{[3-(trifluoromethyl)phenyl]amino}propanoate
To a stirred solution of 3-trifluoromethylaniline (1.90 g, 11.8 mmol), triethylamine (1.43 g, 14.5 mmol ), and 4-N,N-dimethylaminopyridine (1 mg) in dichloromethane (20 ml) is added at 0° C. ethyl malonyl chloride (1.78 g, 11.8 mmol). The reaction mixture is warmed to room temperature overnight, then allowed to stand for two days. Water (20 ml) is added and the product is extracted with dichloromethane (1 l). The organic phase is washed with saturated ammonium chloride solution (500 ml) and saturated sodium chloride solution (200 ml), dried over magnesium sulphate monohydrate, filtered and concentrated. The crude product is chromatographed over silica gel with cyclohexane/ethyl acetate mixtures as eluent.

reactant | 3-trifluoromethylaniline | 11.8 mmol, 1.90 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | triethylamine | 14.5 mmol, 1.43 g | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 11.8 mmol, 1.78 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | Water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Ethyl 3-oxo-3-{[3-(trifluoromethyl)phenyl]amino}propanoate | O=C(CC(=O)OCC)NC1=CC(=CC=C1)C(F)(F)F | C12H12F3NO3
